US06852717B2
Triphenylphosphine (2.8 g, 10.8 mmol) was dissolved in THF (5 mL) and cooled to 0° C. To this colorless solution diethylazodicarboxylate (1.9 grams, 10.8 mmol) was added dropwise to afford an orange solution. After 15 min at 0° C., a copious precipitate had formed. 4-Hydroxy-naphthalen-1-yl-carbamic acid tert-butyl ester (934 mg, 3.6 mmol) and tetrahydro-4H-pyran-4-ol (552 mg, 5.4 mmol) were then added in one portion as a solution in 2 mL of THF. The purple suspension was stirred at 0° C. for one h then at room temperature for 48 h. The solvent was then evaporated and chromatographed on silica gel (40% EtOAc-hexanes) to provide 680 mg (55%) of [4-(tetrahydro-pyran-4-yloxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester as a purple solid.

reactant | Triphenylphosphine | 10.8 mmol, 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 10.8 mmol, 1.9 grams | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-Hydroxy-naphthalen-1-yl-carbamic acid tert-butyl ester | 3.6 mmol, 934 mg | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)O)=O | C15H17NO3
reactant | tetrahydro-4H-pyran-4-ol | 5.4 mmol, 552 mg | O1CCC(CC1)O | C5H10O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [4-(tetrahydro-pyran-4-yloxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester | 680 mg, 55% | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OC1CCOCC1)=O | C20H25NO4
